US05880135
4-(2-Chloro-4-methoxyphenyl)-5-methyl-2-[N-(indol-5-yl)-N-propylamino]thiazole.
10.9 g of 4-(2-chloro-4-methoxyphenyl)-5-methyl-2-[N-(1-(tetrahydropyran-2-yl)indol-5-yl)amino]-thiazole are dissolved in 110 ml of dimethylformamide. 1.06 g of 60% sodium hydride in oil and then 3.2 ml of propyl bromide are added at 0° C. After stirring for 16 hours at room temperature, the reaction mixture is poured onto 500 ml of water and extracted 3 times with 250 ml ethyl acetate. The organic phase is washed with 3 times 200 ml of water, dried over sodium sulphate and evaporated to dryness. The residue is purified by flash chromatography on silica gel eluted with a 3/1 (v/v) cyclohexane/ethyl acetate mixture. 10.17 g of the expected product (85%) are obtained. 1H NMR (CDCl3): 0.90 (m, 3H), 1.57-1.75 (m, 6H), 2.02 (s, 3H), 1.95-2.25 (m, 2H), 3.70-4.17 (m, 7H), 5.50 (dd, J=2.6, 10.0, 1H), 6.54-7.61 (m, 8H).

reactant | 4-(2-chloro-4-methoxyphenyl)-5-methyl-2-[N-(1-(tetrahydropyran-2-yl)indol-5-yl)amino]-thiazole | 10.9 g | ClC1=C(C=CC(=C1)OC)C=1N=C(SC1C)NC=1C=C2C=CN(C2=CC1)C1OCCCC1 | C24H24ClN3O2S
reactant | sodium hydride | 1.06 g | [H-].[Na+]
reactant | propyl bromide | 3.2 ml | C(CC)Br | C3H7Br
reactant | water | 500 ml | O | H2O
solvent | dimethylformamide | 110 ml | CN(C=O)C | C3H7NO
product | 4-(2-Chloro-4-methoxyphenyl)-5-methyl-2-[N-(indol-5-yl)-N-propylamino]thiazole | 10.17 g, 85% | ClC1=C(C=CC(=C1)OC)C=1N=C(SC1C)N(CCC)C=1C=C2C=CNC2=CC1 | C22H22ClN3OS
